US04200641
A mixture of 7.3 parts of 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one, 5.15 parts of 1-(diphenylmethyl)piperazine, 5.3 parts of sodium carbonate, 0.1 parts of potassium iodide and 160 parts of 4-methyl-2-pentanone is stirred and refluxed overnight with water-separator. The reaction mixture is cooled, water is added and the layers are separated. The organic phase is dried, filtered and evaporated. The residue is stirred and refluxed for one hour with 12 parts of a concentrated hydrochloric acid solution and 40 parts of ethanol. The solvent is evaporated and the residue is taken up in water. The free base is liberated in the conventional manner with ammonium hydroxide. The product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is crystallized from methanol. The product is filtered off and recrystallized from N,N-dimethylformamide, yielding 1-{6-[4-(diphenylmethyl)-1-piperazinyl]hexyl}-1,3-dihydro-2H-benzimidazol-2-one; mp. 189.7° C.

reactant | 1-(6-chlorohexyl)-1,3-dihydro-3-(1-methylethenyl)-2H-benzimidazol-2-one | ClCCCCCCN1C(N(C2=C1C=CC=C2)C(=C)C)=O | C16H21ClN2O
reactant | 1-(diphenylmethyl)piperazine | C1(=CC=CC=C1)C(N1CCNCC1)C1=CC=CC=C1 | C17H20N2
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | [I-].[K+]
solvent | water | O | H2O
solvent | 4-methyl-2-pentanone | CC(CC(C)=O)C | C6H12O
product | 1-{6-[4-(diphenylmethyl)-1-piperazinyl]hexyl}-1,3-dihydro-2H-benzimidazol-2-one | C1(=CC=CC=C1)C(N1CCN(CC1)CCCCCCN1C(NC2=C1C=CC=C2)=O)C2=CC=CC=C2 | C30H36N4O
